US05672602
(S)-N-(3,4-Dichlorobenzyl)-N-methyl-2-[N'-(t-butoxycarbonyl)-2-oxo-ethylamino]-3-(naphth-2-yl)-propionamide
Combine (S)-N-(3,4-dichlorobenzyl)-N-methyl-2-[N'-(t-butoxycarbonyl)-allylamino]-3-(naphth-2-yl)-propionamide (0.26 g, 0.50 mmol), N-methylmorpholine-N-oxide (0.065 g, 0.55 mmol), acetone (10 mL), tetrahydrofuran (5 mL), and water (5 mL). Add osmium tetraoxide (0.26 mL, 0.04M in THF, 0.042 mmol) and stir under an inert atmosphere for 18 hours. Pour the reaction mixture into a saturated solution of sodium bisulfite and extract the intermediate diol into ethyl acetate. Dry the separated organic layer over MgSO4, filter, and evaporate in vacuo to give the crude diol which is taken on to the next step without further purification. Dissolve the crude diol in chloroform (10 mL). Add a solution of lead tetraacetate (0.24 g, 0.55 mmol) in chloroform (10 mL). Stir for 30 minutes and then pour the reaction mixture into a saturated solution of sodium bicarbonate. Extract with dichloromethane and separate the organic layer. Dry the separated organic layer over MgSO4, filter and evaporate in vacuo to give the title compound which may be used without further purification.

reactant | (S)-N-(3,4-dichlorobenzyl)-N-methyl-2-[N'-(t-butoxycarbonyl)-allylamino]-3-(naphth-2-yl)-propionamide | 0.50 mmol, 0.26 g | ClC=1C=C(CN(C([C@H](CC2=CC3=CC=CC=C3C=C2)N(C(=O)OC(C)(C)C)CC=C)=O)C)C=CC1Cl | C29H32Cl2N2O3
reactant | N-methylmorpholine-N-oxide | 0.55 mmol, 0.065 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
reactant | lead tetraacetate | 0.55 mmol, 0.24 g | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | osmium tetraoxide | 0.042 mmol, 0.04M, 0.26 mL | [Os](=O)(=O)(=O)=O
solvent | water | 5 mL | O | H2O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | (S)-N-(3,4-Dichlorobenzyl)-N-methyl-2-[N'-(t-butoxycarbonyl)-2-oxo-ethylamino]-3-(naphth-2-yl)-propionamide | ClC=1C=C(CN(C([C@H](CC2=CC3=CC=CC=C3C=C2)N(C(=O)OC(C)(C)C)CC=O)=O)C)C=CC1Cl | C28H30Cl2N2O4
